US04820727
Step (1) Preparation of 2-Bromo-N-(ethoxycarbonyl)-6-methoxy-5-(trifluoromethyl)-1-naphthalenecarboxamide
According to the procedure of O. Mitsunobu et al, Bull. Chem. Soc., Japan, 45, 3607 (1972), a solution of 2-bromo-6-methoxy-5-trifluoromethyl-1-naphthoic acid (4.50 g, 12.9 mmol, prepared by the process of Step 2, Example (11), and ethoxycarbonyl-t-butylcarbodiimide (2.40 g, 14.1 mmol) in dry tetrahydrofuran (80 mL) was heated to reflux under a dry nitrogen atmosphere for 21/3 hours. The THF was removed and the residue was dissolved in chloroform and the solvent evaporated. The resultant solid was triturated with ether (2×5 mL) and dried in vacuo to provide the title compound as an off white solid (4.61 g, 85%), m.p. 169°-171° C.

reactant | 2-bromo-6-methoxy-5-trifluoromethyl-1-naphthoic acid | BrC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)O | C13H8BrF3O3
reactant | ethoxycarbonyl-t-butylcarbodiimide | 14.1 mmol, 2.40 g | C(C)OC(=O)N=C=NC(C)(C)C | C8H14N2O2
reactant | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
product | 2-Bromo-N-(ethoxycarbonyl)-6-methoxy-5-(trifluoromethyl)-1-naphthalenecarboxamide | BrC1=C(C2=CC=C(C(=C2C=C1)C(F)(F)F)OC)C(=O)NC(=O)OCC | C16H13BrF3NO4
